US05840732
i) Synthesis of 5-[3-(2-fluorophenyl)propylidene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione
To a solution of 964 mg (3.0 mmol) of 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione and 609 mg (4.0 mmol) of 3-(2-fluorophenyl)-1-propanal in 20 ml of ethanol, 26 mg (0.3 mmol) of piperidine was added, followed by refluxing for 4.5 hours. After the reaction mixture was cooled, the solvent was distilled off. The residue was dissolved in dichloromethane, washed with purified water and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, chloroform/methanol=50/1) to yield 1.11 g (81.5%, yellow oily substance) of the desired product.

reactant | 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 3.0 mmol, 964 mg | N=1C=CN2C1C=CC=C2SCCCCN2C(SCC2=O)=O | C14H15N3O2S2
reactant | 3-(2-fluorophenyl)-1-propanal | 4.0 mmol, 609 mg | FC1=C(C=CC=C1)CCC=O | C9H9FO
reactant | piperidine | 0.3 mmol, 26 mg | N1CCCCC1 | C5H11N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-[3-(2-fluorophenyl)propylidene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | FC1=C(C=CC=C1)CCC=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C23H22FN3O2S2
